US06391880B1
Ethyl acetate saturated with gaseous HCl (50 ml) was added to a solution of 1-[1-tert-butoxycarbonyl(4-piperidinylmethyl)]-4-(4-pyridyl)piperidine (1.65 g) in ethyl acetate (15 ml) and the resulting suspension stirred at ambient temperature for 2 hours. Solvent was evaporated to give 1-(4-piperidinylmethyl)4-(4-pyridyl)piperidine hydrochloride (1.70 g) as a yellow hygroscopic foam: NMR (d6-DMSO): 1.40 (m, 2H), 2.00 (m, 4H). 2.20 (m, 1H), 2.40 (m, 1H), 2.80 (m, 2H), 3.00 (m, 4H), 3.20 (m, 4H), 3.60 (d, 2H), 7.85 (d, 2H), 8.80 (d, 2H): m/z 260 (M+1).

reactant | HCl | 50 ml | Cl | ClH
reactant | 1-[1-tert-butoxycarbonyl(4-piperidinylmethyl)]-4-(4-pyridyl)piperidine | 1.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CCC(CC1)C1=CC=NC=C1 | C21H33N3O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-piperidinylmethyl)4-(4-pyridyl)piperidine hydrochloride | 1.70 g | Cl.N1CCC(CC1)CN1CCC(CC1)C1=CC=NC=C1 | InChI=1S/C16H25N3.ClH/c1-7-17-8-2-14(1)13-19-11-5-16(6-12-19)15-3-9-18-10-4-15;/h3-4,9-10,14,16-17H,1-2,5-8,11-13H2;1H
